US07034039B2
To a mixture of tert-butyl{6-[amino(hydroxyimino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.23 g, 0.50 mmol) and pyridine (0.043 mL, 0.53 mmol) in toluene (20 mL), was added ethyl chlorooxoacetate (0.059 mL, 0.53 mmol), and the mixture was stirred at room temperature for 1 h and at 80° C. for 1 h. The reaction mixture was partitioned between water (50 mL) and ethyl acetate (50 mL). The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1–1:3 (v/v)) and recrystallized from diisopropyl ether-ethyl acetate (20:1, v/v, 5 mL) to give ethyl 3-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,2,4-oxadiazole-5-carboxylate (0.13 g, 48%) as colorless crystals.

reactant | tert-butyl{6-[amino(hydroxyimino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.50 mmol, 0.23 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=NO)N)=O)CC(C)C)=O | C26H32N4O4
reactant | pyridine | 0.53 mmol, 0.043 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorooxoacetate | 0.53 mmol, 0.059 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-1,2,4-oxadiazole-5-carboxylate | 0.13 g, 48% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NOC(=N1)C(=O)OCC)=O)CC(C)C | C30H34N4O6
